US04859229
using 3-(4-chloro-2-fluoro-5-methoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione and dimethyl sulphate there is obtained 3-(4-chloro-2-fluoro-5-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione, m.p. 128°-130° C.;

reactant | 3-(4-chloro-2-fluoro-5-methoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C12H7ClF4N2O3
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
product | 3-(4-chloro-2-fluoro-5-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C13H9ClF4N2O3
